Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Bilateral hydronephrosis
Bilateral ureteral stones
Flank pain
Pyuria
 
Major Surgical or Invasive Procedure:
___: Placement of bilateral double J ureteral stents (4.8 
x24)

 
History of Present Illness:
___ male with a history of prior CVA, DVT on Coumadin, 
wheelchair bound living in a group home who presents as a 
transfer to ___ ED with increasing left flank pain. 

He has a history of kidney stones with lithotripsy by Dr. 
___ in the past. 

He was scheduled to see Dr. ___ a procedure but his INR 
was over 4 and this was delayed until he could hold his 
Coumadin. 

He presents to ___ with increasing left-sided flank 
pain. He has been taking tramadol and the pain was about ___. 
The pain is mostly on the left side radiating to the left lower 
quadrant. 

At ___ a CT of abdomen and pelvis that was showed severe 
bilateral hydronephrosis with obstructing bilateral ureteral 
calculi with an elevated creatinine to 1.3 and Urinalysis showed 
significant pyuria concerning for infection
 
Past Medical History:
CVA/TIA,
Hypercholesterolemia,
Hypertension. 
KIDNEY STONES,
DEPRESSION,
SI,
SEPSIS,
URINARY INCONTINANCE,
CONSTIPATION,
RESTLESS LEG SYNDROME,HEMIPLEGIA,
HEMIPARESIS,
CAD,
DVT
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
Neuro: Alert and oriented, interactive, no fevers, denies pain

Resp: Acyanotic, equal chest rise, non labored breathing

CV: RRR, no chest pain

GI: Tolerating regular diet, +BM today

GU: Frequent small voids, pink tinge urine, has bilateral 
ureteral stents

Ambulation Wheelchair bound. 

___: No edema
 
Pertinent Results:
___ 06:05AM BLOOD 
WBC-9.2 RBC-4.28* Hgb-13.1* Hct-40.0 MCV-94 MCH-30.6 MCHC-32.8 
RDW-12.7 RDWSD-43.8 Plt ___

___ 02:20AM BLOOD 
WBC-8.6 RBC-4.39* Hgb-13.6* Hct-41.1 MCV-94 MCH-31.0 MCHC-33.1 
RDW-12.9 RDWSD-44.1 Plt ___

___ 06:05AM BLOOD Plt ___

___ 06:05AM BLOOD 

Glucose-82 UreaN-11 Creat-0.9 Na-145 K-3.5 Cl-105 HCO3-25 
AnGap-15

___ 02:20AM BLOOD ___ PTT-32.2 ___
 
Brief Hospital Course:
___ male with a history of prior CVA, DVT on Coumadin, 
wheelchair bound living in a group home who presents as 
atransfer to BIDC ED with increasing left flank pain. 

He has a history of kidney stones with lithotripsy by Dr. 
___ in the past. 

He was scheduled to see Dr. ___ a procedure but his INR 
was over 4 and this was delayed until he could hold his 
Coumadin. 

He presents to ___ with increasing left-sided flank 
pain. He has been taking tramadol and the pain was about ___. 
The pain is mostly on the left side radiating to the left lower 
quadrant. 

At ___ a CT of abdomen and pelvis that was showed severe 
bilateral hydronephrosis with obstructing bilateral ureteral 
calculi with an elevated creatinine to 1.3 and Urinalysis showed 
significant pyuria concerning for infection.

On ___ we placed bilateral double J ureteral stents.

Since stent placement he reports marked improvement in his flank 
discomfort. His foley catheter was removed. He is voiding 
frequent small quantity voids. His PVR is diminishing. He is 
often incontinent. 

He will follow up with his primary urologist in ___. Please 
arrange for a PCP visit to check his INR and anticoagulation 
goals.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 2 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM hyperlipidemia 
3. ClonazePAM 0.25 mg PO DAILY 
4. rOPINIRole 1 mg PO TID 
5. Sertraline 150 mg PO DAILY 
6. Tamsulosin 0.4 mg PO QHS 
7. TraZODone 50 mg PO QHS *AST Approval Required*
8. Warfarin 4 mg PO EVERY ___ 
9. Warfarin 3 mg PO ___ 
10. Cetirizine 10 mg PO DAILY as needed for allergy symptoms 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen [Acetaminophen Pain Relief] 500 mg 2 tablet(s) 
by mouth every 8 hours Disp #*60 Tablet Refills:*0 
2.  Depend Easy Fit Undergarments 
(diaper,brief,adult,disposable)    miscellaneous Q4H 
Change every 4 hours and PRN wetnesss 
RX *diaper,brief,adult,disposable [Adult Briefs - Large]  ___ 
protective garments per day PRN wetness Disp #*120 Each 
Refills:*0 
3.  Docusate Sodium 100 mg PO BID constipation 
please hold if you have loose stools 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
4.  Phenazopyridine 100 mg PO TID:PRN dysuria/catheter 
discomfort Duration: 3 Days 
RX *phenazopyridine 100 mg 1 tablet(s) by mouth every eight 
hours Disp #*14 Tablet Refills:*0 
5.  Senna 17.2 mg PO QHS constipation 
please hold for loose stool  
6.  ARIPiprazole 2 mg PO QHS  
7.  Atorvastatin 80 mg PO QPM hyperlipidemia  
8.  Cetirizine 10 mg PO DAILY as needed for allergy symptoms  
9.  ClonazePAM 0.25 mg PO DAILY  
10.  rOPINIRole 1 mg PO TID 
You were taking this medication at home.   
11.  Sertraline 150 mg PO DAILY  
12.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0 
13.  TraZODone 50 mg PO QHS *AST Approval Required* 
14.  Warfarin 4 mg PO EVERY ___ 
Please check your INR on ___  
15.  Warfarin 3 mg PO ___ 
Please have your INR checked on ___  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilateral ureteral stones
Bilateral hydronpehrosis
Placement of bilateral 4.8 x24 double J ureteral stents

 
Discharge Condition:
Stable, Alert, oriented and interactive, AVSS
Abdomen soft, Nt/Nd
Denies flank pain
Urine slightly pink tinge 
Lower extremities w/out edema or pitting and no report of calf 
pain

 
Discharge Instructions:
You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the passage of stone fragments or 
the indwelling ureteral stent.

-The kidney stone may or may not have been removed AND/or there 
may fragments/others still in the process of passing.

-You may experience some pain associated with spasm of your 
ureter.; This is normal. 

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-You will need to follow up with Dr. ___ office in 
___. For definitive management of your kidney stones and 
stent removal. Please call his office on ___ to check in 
to see if your appointment has been arranged. His office can be 
reached at ___.

-Do not lift anything heavier than a phone book (10 pounds) 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks 

 
Followup Instructions:
___